US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, (R)-2-amino-3-methyl-butan-1-ol and DIEA to give 2-((R)-1-hydroxymethyl-2-methyl-propylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 342 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | (R)-2-amino-3-methyl-butan-1-ol | N[C@@H](CO)C(C)C | C5H13NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-((R)-1-hydroxymethyl-2-methyl-propylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | OC[C@@H](C(C)C)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C18H19N3O2S
